US09428510B2
6-(3,5-dichlorophenylthio)-3-nitropicolinonitrile
A mixture of 6-chloro-3-nitropicolinonitrile (3.70 g, 0.02 mol), 3,5-dichlorobenzenethiol (3.60 g, 0.02 mol) and K2CO3 (5.6 g, 0.04 mol) in 100 ml of acetonitrile is carried at 70° C. for 16 hours. The crude reaction product is diluted in an ethyl acetate fraction and washed using an aqueous phase. The organic phase is dried with sodium sulfate and the residue is purified by silica gel chromatography (AcOEt/petroleum ether) to yield 5.4 g (80%) of a yellow solid.

reactant | 6-chloro-3-nitropicolinonitrile | 0.02 mol, 3.70 g | ClC1=CC=C(C(=N1)C#N)[N+](=O)[O-] | C6H2ClN3O2
reactant | 3,5-dichlorobenzenethiol | 0.02 mol, 3.60 g | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
reactant | K2CO3 | 0.04 mol, 5.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 6-(3,5-dichlorophenylthio)-3-nitropicolinonitrile | 5.4 g, 80% | ClC=1C=C(C=C(C1)Cl)SC1=CC=C(C(=N1)C#N)[N+](=O)[O-] | C12H5Cl2N3O2S
